US08980929B2
Step B: tert-Butyl 2-(2-amino-2-oxoethyl)-2,6-dihydropyrrolo[3,4-c]pyrazole-5(4H)-carboxylate
A 2 L three neck flask fitted with a thermometer, a mechanical stirrer and an addition funnel was charged with a suspension of tert-butyl 2,6-dihydropyrrolo[3,4-c]pyrazole-5(4H)-carboxylate (18.01 g, 86.5 mmol) in anhydrous acetonitrile (1.0 L). Sodium hydride (60% dispersion in oil, 4.15 g, 104 mmol) was added to the suspension in one portion under nitrogen. The reaction was stirred at room temperature for 2 h. The resulting white suspension was then cooled in an ice bath and iodoacetamide (31.95 g, 173 mmol) was added. The ice bath was then removed and the mixture was stirred 18 h at room temperature. The mixture was quenched with water (50 mL) and the solvent was removed under reduced pressure. The residue was partitioned between diluted NaCl (50 mL brine and 100 mL water) and 1.0 L EtOAc. The aqueous layer was extracted with 2×1.0 EtOAc. The organic layers were combined and dried over Na2SO4 and solvent was evaporated under reduced pressure. Crude material was purified on silica gel eluting with 20-50% EtOAc/CH2Cl2 to wash out excess iodoacetamide, and then with 2-10% MeOH/CH2Cl2 to afford a mixture of the two products which were separated on a chiral AD column by eluting with 30% MeOH/CO2 to afford the title compound (less mobile fraction). LC-MS=267.32 [M+1].

reactant | tert-butyl 2,6-dihydropyrrolo[3,4-c]pyrazole-5(4H)-carboxylate | 86.5 mmol, 18.01 g | N=1NC=C2C1CN(C2)C(=O)OC(C)(C)C | C10H15N3O2
reactant | Sodium hydride | 104 mmol, 4.15 g | [H-].[Na+]
reactant | iodoacetamide | 173 mmol, 31.95 g | ICC(=O)N | C2H4INO
solvent | acetonitrile | 1.0 L | C(C)#N | C2H3N
product | tert-Butyl 2-(2-amino-2-oxoethyl)-2,6-dihydropyrrolo[3,4-c]pyrazole-5(4H)-carboxylate | NC(CN1N=C2C(=C1)CN(C2)C(=O)OC(C)(C)C)=O | C12H18N4O3
